US06562809B1
1H-Indol-5-yl-phenylmethanone
5-Bromoindole(1.0 g, 5.10 mmol) was dissolved in THF (10 mL) and the resulting solution was cooled to −78° C. t-Butyl lithium (1.7 M in pentane, 10.5 mL, 17.9 mmol) was added dropwise and the solution stirred for 30 minutes before being added to a solution of benzoyl chloride (0.86 g, 6.12 mmol) in THF (10 mL) at −78° C. via cannula. The reaction mixture was allowed to warm to room temperature and was stirred overnight and was then quenched with saturated ammonium chloride and diluted with ethyl acetate. The organic phase was washed with water and brine, dried (Na2SO4), filtered and concentrated. Silica gel chromatography using 20% hexane in ethyl acetate as the eluent provided the title compound as a beige solid (0.40 g, 35%).

reactant | 5-Bromoindole | 5.10 mmol, 1.0 g | BrC=1C=C2C=CNC2=CC1 | C8H6BrN
reactant | t-Butyl lithium | 17.9 mmol, 1.7 M, 10.5 mL | C(C)(C)(C)[Li]
reactant | benzoyl chloride | 6.12 mmol, 0.86 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 1H-Indol-5-yl-phenylmethanone | 0.40 g, 35% | N1C=CC2=CC(=CC=C12)C(=O)C1=CC=CC=C1 | C15H11NO
